US05614530
A mixture of 1-ethyl-4-chloro-1H-pyrazolo[3,4-b]quinoline (11.6 g, 0.05 mol), DMSO (20 ml) and phenethylamine (12.1 g, 0.1 mol) was heated at 80° C. overnight. The reaction mixture was poured into water (1 L) and the precipitate which formed was collected by filtration and washed with water. The solid was dissolved in hot ethyl acetate, and then the solution was dried over MgSO4, filtered and evaporated to a small volume. Hexane was added and then the mixture was cooled in an ice-bath and then the product which crystallized was collected by filtration, washed with hexane and dried to afford 12.5 g of 1-ethyl-N-(phenylethyl)-1H-pyrazolo[3,4-b]quinoline-4 amine, m.p. 157°-158° C.

reactant | 1-ethyl-4-chloro-1H-pyrazolo[3,4-b]quinoline | 0.05 mol, 11.6 g | C(C)N1N=CC=2C1=NC1=CC=CC=C1C2Cl | C12H10ClN3
reactant | DMSO | 20 ml | CS(=O)C | C2H6OS
reactant | phenethylamine | 0.1 mol, 12.1 g | C(CC1=CC=CC=C1)N | C8H11N
solvent | water | 1 L | O | H2O
product | 1-ethyl-N-(phenylethyl)-1H-pyrazolo[3,4-b]quinoline-4 amine | 12.5 g | C(C)N1N=CC=2C1=NC1=CC=CC=C1C2NCCC2=CC=CC=C2 | C20H20N4
